US04386031
(a) 8-[4-Fluoro-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester
As described in example 3(b), the reaction is carried out with 5.6 g (20 mmol) of 8-(4-methoxyphenylamino)-caprylic acid methyl ester, 5 g (50 mmol) of triethylamine, 150 cc. of toluene and 4 g (25 mmol) of 4-fluorobenzoic acid chloride. Reaction time: 5 hours, reaction temperature: 25° C. The crude product is used in the next reaction step without further purification.

reactant | 8-(4-methoxyphenylamino)-caprylic acid methyl ester | 20 mmol, 5.6 g | COC(CCCCCCCNC1=CC=C(C=C1)OC)=O | C16H25NO3
reactant | triethylamine | 50 mmol, 5 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoic acid chloride | 25 mmol, 4 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8-[4-Fluoro-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester | COC(CCCCCCCN(C(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)OC)=O | C23H28FNO4
